US07186716B2
To a solution of 2-chloro-nicotinoyl chloride (1.17 g) (Aldrich, Milwaukee, Wis.) and 1-benzensulfonyl-1H-pyrrole (1 g) (Aldrich) in dichloroethane (15 mL) was added aluminum chloride (1.1 g). After stirring at room temperature for one hour, the reaction was diluted with ethyl acetate, washed with water, base and brine, dried and purified to give 820 mg of (1-benzenesulfonyl-1H-pyrrol-2-yl)-(2-chloro-pyridin-3-yl)-methanone.

reactant | 2-chloro-nicotinoyl chloride | 1.17 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | 1-benzensulfonyl-1H-pyrrole | 1 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=C1 | C10H9NO2S
reactant | aluminum chloride | 1.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1-benzenesulfonyl-1H-pyrrol-2-yl)-(2-chloro-pyridin-3-yl)-methanone | 820 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=C1)C(=O)C=1C(=NC=CC1)Cl | C16H11ClN2O3S
